US03979458
To a suspension of 4 g. of dibutyl methylphosphonate in 75 ml. of dry monoglyme at about -78° under nitrogen, there is added with stirring one equivalent of n-butyl lithium in hexane. After about 10 minutes, there is added one equivalent of 17β-acetoxy-4-oxa-androst-5-en-3-one in 75 ml. of dry tetrahydrofuran while maintaining the temperature at about -78°. The reaction mixture is allowed to warm to room temperature and then left to stand for about four hours. The reaction mixture is diluted with water and extracted with ether. The ether extracts are combined, washed, dried and evaporated to give testosterone acetate (17β-acetoxyandrost-4-en-3-one) which can be purified by chromatography.

reactant | dibutyl methylphosphonate | CP(OCCCC)(OCCCC)=O | C9H21O3P
reactant | monoglyme | C(OC)COC | C4H10O2
reactant | n-butyl lithium | one equivalent | C(CCC)[Li]
reactant | 17β-acetoxy-4-oxa-androst-5-en-3-one | one equivalent | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3OC(CC[C@]3(C)[C@H]1CC2)=O | C20H28O4
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | testosterone acetate | CC(=O)O[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C | C21H30O3
